US06544985B2
3-Thiazol-4-yl-benzoic acid methyl ester (0.91 g) was treated with lithium tert.-butyl acetate according to the general procedure K (method b) to give crude 3-oxo-3-(3-thiazol-4-yl-phenyl)-propionic acid tert-butyl ester (1.54 g) as a pale-yellow oil.

reactant | 3-Thiazol-4-yl-benzoic acid methyl ester | 0.91 g | COC(C1=CC(=CC=C1)C=1N=CSC1)=O | C11H9NO2S
reactant | lithium tert.-butyl acetate | C(C)(=O)OC(C)(C)C.[Li]
product | 3-oxo-3-(3-thiazol-4-yl-phenyl)-propionic acid tert-butyl ester | 1.54 g | C(C)(C)(C)OC(CC(C1=CC(=CC=C1)C=1N=CSC1)=O)=O | C16H17NO3S
